US05962479
2-(6-Chloro-2,5-dimethylpyrimidin-4-yl)-2-(2,4,6-trimethylphenyl)-propionitrile
A solution of (6-chloro-2,5-dimethylpyrimidin-4-yl)-(2,4,6-trimethylphenyl)-acetonitrile (0.250 g, 0.834 mmol) in 4 ml of dry THF was cooled to -78° C. and treated with lithium bistrimethylsilylamide (1.0 M in THF, 0.92 ml) and stirred at that temperature for 45 minutes. Methyl iodide (0.426 g, 3.00 mmol) was added. The reaction mixture was gradually warmed to room temperature and stirred for 1 hour. The reaction mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give a yellow oil. The oil residue was purified through silica gel chromatotron using ethyl acetate/hexane (4:6) as eluent to give 161 mg (62%) of yellow solid, mp 181-183° C. 1H NMR (CDCl3) δ6.980 (s, 2H), 3.45 (s, 3H), 2.40 (s, 3H), 2.24 (s, 3H), 2.21 (s, 6H), 1.25 (s, 3H) ppm.

reactant | (6-chloro-2,5-dimethylpyrimidin-4-yl)-(2,4,6-trimethylphenyl)-acetonitrile | 0.834 mmol, 0.250 g | ClC1=C(C(=NC(=N1)C)C(C#N)C1=C(C=C(C=C1C)C)C)C | C17H18ClN3
reactant | lithium bistrimethylsilylamide | 1.0 M, 0.92 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Methyl iodide | 3.00 mmol, 0.426 g | CI | CH3I
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-(6-Chloro-2,5-dimethylpyrimidin-4-yl)-2-(2,4,6-trimethylphenyl)-propionitrile | 161 mg, 62% | ClC1=C(C(=NC(=N1)C)C(C#N)(C)C1=C(C=C(C=C1C)C)C)C | C18H20ClN3
